US04038469
b. Styrene Carboxylic Acid - 2% Divinylbenzene Copolymer
Titration was effected by suspending the product (0.500g) in 95% ethanol (50 ml.) adding 0.5M sodium hydroxide (50 ml.), warming the mixture to reflux, cooling and back titrating with 0.5M hydrochloric acid using phenolphthalein as the indicator; it was found that 47.12 ml. of acid were required for neutralisation indicating 2.88 m.mole carboxyl/g of polymer.

reactant | sodium hydroxide | 0.5M, 50 ml | [OH-].[Na+]
reactant | hydrochloric acid | 0.5M | Cl | ClH
reactant | phenolphthalein | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | Styrene Carboxylic Acid | C(=CC1=CC=CC=C1)C(=O)O | C9H8O2
